US05624950
To a suspension, cooled to -70° C. and under an argon atmosphere, of 0.5 g of (3aRS,7RS,7aSR)-7-hydroxy-7-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl ]-4-perhydroisoindolone are slowly added 4 cm3 of 1.6 M methyllithium solution in ethyl ether. After returning to room temperature and stirring for 3 hours, the reaction mixture is cooled to +5° C., followed by addition of 25 cm3 of saturated aqueous ammonium chloride solution and 20 cm3 of ethyl acetate. The organic phase is dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.06-0.20 mm) in ethyl acetate and then in a mixture of ethyl acetate and methanol (90/10 by volume). After drying under reduced pressure and recrystallization in acetonitrile, 0.1 g of (3aRS,4RS,7aSR)-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-7-methyl-4,7-perhydroisoindolediol is obtained, in the form of white crystals melting at 180° C.

reactant | (3aRS,7RS,7aSR)-7-hydroxy-7-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl ]-4-perhydroisoindolone | 0.5 g | OC1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=O)=O)C1=C(C=CC=C1)OC | C24H27NO5
reactant | methyllithium | 1.6 M, 4 cm3 | C[Li]
reactant | ammonium chloride | 25 cm3 | [Cl-].[NH4+]
reactant | ethyl acetate | 20 cm3 | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | (3aRS,4RS,7aSR)-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-7-methyl-4,7-perhydroisoindolediol | 0.1 g | COC1=C(C=CC=C1)C1(C2CN(CC2C(CC1)(O)C)C(CC1=C(C=CC=C1)OC)=O)O | C25H31NO5
